US05380881
45 g (375 mmol) of phenylvinyl ether, 21 g (375 mmol) of acrolein and 0.66 g (6 mmol) of hydroquinone are reacted in a pressure reactor for 1 h at 185° C. After cooling, 2-phenoxy-3,4-dihydro-2H-pyran is isolated by distillation at 80° C./0.0267 kPa in a yield of 30.2 g (172 mmol; 46%) as a clear liquid.

reactant | phenylvinyl ether | 375 mmol, 45 g | C1(=CC=CC=C1)OC=C | C8H8O
reactant | acrolein | 375 mmol, 21 g | C(=O)C=C | C3H4O
reactant | hydroquinone | 6 mmol, 0.66 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 2-phenoxy-3,4-dihydro-2H-pyran | O(C1=CC=CC=C1)C1OC=CCC1 | C11H12O2
